US07960409B2
Step 1: 2-chloro-4-(4-fluorophenyl)-7-methylquinoline
A solution of 4-(4-fluorophenyl)-7-methylquinoline (3.09 g, 12.2 mmol) in phosphorus oxychloride (8 mL, 85.8 mmol) was stirred 30 min. at 90° C. The mixture was poured slowly into an aqueous saturated solution of NaHCO3 and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduce pressure. Purification on silica gel (eluting with acetone/dichloromethane/hexanes, 1:70:29) gave the title compound. MS (+ESI): 271 (M+H)+.

reactant | 4-(4-fluorophenyl)-7-methylquinoline | 12.2 mmol, 3.09 g | FC1=CC=C(C=C1)C1=CC=NC2=CC(=CC=C12)C | C16H12FN
reactant | phosphorus oxychloride | 85.8 mmol, 8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-chloro-4-(4-fluorophenyl)-7-methylquinoline | ClC1=NC2=CC(=CC=C2C(=C1)C1=CC=C(C=C1)F)C | C16H11ClFN
